US04752646
An ozone-oxygen gas mixture is passed into a solution of 0.67 g (2 mmoles) of rac-3,4-dihydro-2,5,7,8-tetramethyl-2-(2-propenyl)-6-(phenylmethoxy)-2H-1-benzopyran in 100 ml of methanol, with stirring, at -78° C. After the starting olefin has been consumed, the ozone flow is stopped and the solution is treated with excess dimethyl sulfide and allowed to warm to room temperature. The solution is concentrated in vacuo. The residue is chromatographed on silica gel giving rac-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran-2-acetaldehyde, which can be converted to Vitamin E by the procedures in Helv. Chim. Acta set forth in Example 8.

reactant | ozone oxygen | O=[O+][O-].O=O
reactant | rac-3,4-dihydro-2,5,7,8-tetramethyl-2-(2-propenyl)-6-(phenylmethoxy)-2H-1-benzopyran | 2 mmoles, 0.67 g | CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)CC=C | C23H28O2
solvent | methanol | 100 ml | CO | CH4O
product | rac-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran-2-acetaldehyde | CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)CC=O | C22H26O3
